US08202873B2
3′-(4-Fluoro-phenyl)-4-[1-(1-methyl-1H-imidazol-4-yl)-1H-pyrazol-4-ylmethyl]-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl hydrochloride
Dissolve 3′-(4-fluoro-phenyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl (0.053 g, 0.204 mmol) in DCE (2.1 mL). Add 1-(1-methyl-1H-imidazol-4-yl)-1H-pyrazole-4-carbaldehyde (0.036 g, 0.204 mmol) and stir at ambient temperature for 1 hr. Add sodium triacetoxyborohydride (0.065 g, 0.306 mmol) and acetic acid (19 μL) and stir at room temperature for 72 hr. Purify via SCX chromatography, followed by silica gel chromatography (50:50 to 0:100 hexanes:ethyl acetate then 10:90 to 20:80 methanol:ethyl acetate) to give the free base of the title compound (61 mg, 71%).

reactant | 3′-(4-fluoro-phenyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl | 0.204 mmol, 0.053 g | FC1=CC=C(C=C1)C=1C(=NC=CN1)N1CCNCC1 | C14H15FN4
reactant | 1-(1-methyl-1H-imidazol-4-yl)-1H-pyrazole-4-carbaldehyde | 0.204 mmol, 0.036 g | CN1C=NC(=C1)N1N=CC(=C1)C=O | C8H8N4O
reactant | sodium triacetoxyborohydride | 0.306 mmol, 0.065 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | acetic acid | 19 μL | C(C)(=O)O | C2H4O2
reactant | DCE | 2.1 mL | ClCCCl | C2H4Cl2
product | 3′-(4-Fluoro-phenyl)-4-[1-(1-methyl-1H-imidazol-4-yl)-1H-pyrazol-4-ylmethyl]-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl hydrochloride | 61 mg, 71% | Cl.FC1=CC=C(C=C1)C=1C(=NC=CN1)N1CCN(CC1)CC=1C=NN(C1)C=1N=CN(C1)C | InChI=1S/C22H23FN8.ClH/c1-28-15-20(26-16-28)31-14-17(12-27-31)13-29-8-10-30(11-9-29)22-21(24-6-7-25-22)18-2-4-19(23)5-3-18;/h2-7,12,14-16H,8-11,13H2,1H3;1H
